US07304068B2
d) 3-(2-Fluoropyridin-4-yl)-2-phenyl-7-pyrrolidin-1-ylpyrazolo[1,5-α]pyrimidine.
3-Bromo-2-phenyl-7-pyrrolidin-1-ylpyrazolo[1,5-α]pyrimidine (150 mg, 0.44 mmol) was dissolved in N,N-dimethylformamide (4 mL). To this solution was added dichlorobis(tripenylphosphine)palladium (II) (60 mg, 0.09 mmol), 2-fluoropyridin-4-ylboronic acid (92 mg, 0.66 mmol), sodium carbonate (185 mg, 1.76 mmol) and a few drops of water. The resulting solution was heated at 110° C. for 24 hours. The resulting mixture was diluted with dichloromethane and washed with water. The organic phase was dried over magnesium sulfate, filtered and concentrated. The resulting black residue was purified by silica gel chromatography (ethyl acetate:hexane 1:1) to give 50 mg (32%) of the title compound as a white solid. 1H NMR (CDCl3):δ 8.17 (d, 1H), 8.08 (d, 1H), 7.60 (m, 2H), 7.41 (m, 4H), 7.24 (broad s, 1H), 5.87 (d, 1H), 4.06 (broad s, 4H), 2.07 (broad s, 4H); 19F NMR (CDCl3):δ −-69.34; MS m/z 360 (M+1).

reactant | 3-Bromo-2-phenyl-7-pyrrolidin-1-ylpyrazolo[1,5-α]pyrimidine | 0.44 mmol, 150 mg | BrC=1C(=NN2C1N=CC=C2N2CCCC2)C2=CC=CC=C2 | C16H15BrN4
reactant | 2-fluoropyridin-4-ylboronic acid | 0.66 mmol, 92 mg | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
reactant | sodium carbonate | 1.76 mmol, 185 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
catalyst | water | a few drops | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | dichlorobis(tripenylphosphine)palladium (II) | 0.09 mmol, 60 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(2-Fluoropyridin-4-yl)-2-phenyl-7-pyrrolidin-1-ylpyrazolo[1,5-α]pyrimidine | 50 mg, 32% | FC1=NC=CC(=C1)C=1C(=NN2C1N=CC=C2N2CCCC2)C2=CC=CC=C2 | C21H18FN5
